US08530460B2
5-(4-Iodo-pyridin-2-yloxy)-Pyrimidine
To 259 mg (26.9 mmol) pyrimidin-5-ol (J. Chem. Soc. 1956, 2033) in 200 mL DMF are added 108 mg (26.9 mmol) sodium hydride (60% dispersion in mineral oil). The mixture is stirred for 20 min at r.t. After that time, 500 mg (22.4 mmol) 2-fluoro-4-iodopyridine are added and the mixture is stirred for 12 h at 80° C. Subsequently the mixture is poured into water and extracted with ethyl acetate (3×). The combined organic layers are washed with brine. After drying over sodium sulphate, the solvent is removed in vacuo and the residue is purified by column chromatography (silica gel; heptane/EtOAc, 100/0→40/60).

reactant | pyrimidin-5-ol | 26.9 mmol, 259 mg | N1=CN=CC(=C1)O | C4H4N2O
reactant | sodium hydride | 26.9 mmol, 108 mg | [H-].[Na+]
reactant | 2-fluoro-4-iodopyridine | 22.4 mmol, 500 mg | FC1=NC=CC(=C1)I | C5H3FIN
reactant | water | O | H2O
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 5-(4-Iodo-pyridin-2-yloxy)-Pyrimidine | IC1=CC(=NC=C1)OC=1C=NC=NC1 | C9H6IN3O
